plaintext
VDD 2 0 DC [Voltage Value]
VinCM1 5 0 DC [Voltage Value] 
VinCM2 4 0 DC [Voltage Value]
Vb 1 0 DC [Voltage Value]

RD1 2 6 [Resistance Value]
RD2 2 3 [Resistance Value]

M1 7 5 1 1 NMOS
M2 4 2 1 1 NMOS
M3 1 1 0 0 NMOS

.END